US03931321
514 Parts of 4-chloro-3-nitro-toluene and 300 parts of water were reacted in the same manner as described in Example 1 at from 90° to 95°C with 1446 parts of a 36% aqueous sodium hydrogen sulfide solution while stirring. Then, the 4-chloro-3-amino-toluene which had formed as by-product was eliminated by steam distillation. After cooling to 20° - 30°C, 1,210 parts of sodium sulfite (Na2SO3 . 7 H2O) and 430 parts of xylene were successively added and the pH was adjusted at 6 at a temperature within the range of from 10° to 12°C within from 2 to 3 hours with 565 parts of a 30% hydrochloric acid while stirring. For better separation of the phases, the mixture was heated at 25°C and the mother liquor was stirred with 174 parts of xylene. The 4-methyl-2-amino-thiophenol was isolated from the organic phase by vacuum distillation.

reactant | 4-chloro-3-nitro-toluene | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | sodium hydrogen sulfide | S.[Na]
solvent | water | O | H2O
product | 4-chloro-3-amino-toluene | Yield: 60% | ClC1=C(C=C(C=C1)C)N | C7H8ClN
